US06977264B2
Step (b) (Fluoren-9-ylmethoxy)-N-(2-(4-piperidyl)phenyl)carboxamide Hydrochloride
The title compound was prepared according to the procedure described in Example 16 (Step b) from tert-butyl 4-(2-[(fluoren-9-ylmethoxy)carbonylamino]phenyl)piperidine-carboxylate (Step a) (7.49 g, 15 mmol) and satd anhydrous HCl in EtOAc (50 mL). The title compound was obtained as a white solid (6.51 g). MS (ESI, pos. ion) m/z: 399 (M+1); MS (ESI, neg. ion) m/z: 397 (M−1). Calc'd for C26H27ClN2O2: 398.20.

reactant | tert-butyl 4-(2-[(fluoren-9-ylmethoxy)carbonylamino]phenyl)piperidine-carboxylate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1=C(C=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C31H34N2O4
reactant | HCl | Cl | ClH
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (Fluoren-9-ylmethoxy)-N-(2-(4-piperidyl)phenyl)carboxamide Hydrochloride | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1=C(C=CC=C1)C1CCNCC1 | InChI=1S/C26H26N2O2.ClH/c29-26(28-25-12-6-5-7-19(25)18-13-15-27-16-14-18)30-17-24-22-10-3-1-8-20(22)21-9-2-4-11-23(21)24;/h1-12,18,24,27H,13-17H2,(H,28,29);1H
